2160-03-27 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2160-3-26**] 04:58
 NASAL SWAB - At [**2160-3-26**] 06:29 PM
   - going for IR tomorrow for embolization
   - following hct
   Allergies:
   Acetylcysteine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-3-26**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-27**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 88 (65 - 92) bpm
   BP: 180/81(103) {141/52(80) - 180/90(103)} mmHg
   RR: 18 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                     48 mL
                                                                    164 mL
   PO:
             TF:
   IVF:
                                                                     48 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                    385 mL
                                                                    500 mL
   Urine:
                                                                    385 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -337 mL
                                                                   -336 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   198 K/uL
   11.0 g/dL
   84 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.7 mEq/L
   31 mg/dL
   115 mEq/L
   144 mEq/L
   32.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2160-3-26**]  06:19 PM
                             [**2160-3-27**]  01:46 AM
                             [**2160-3-27**]  06:33 AM
   WBC
   13.8
   12.7
   Hct
   33.2
   36.8
   32.8
   Plt
   197
   198
   Cr
   1.2
   Glucose
   84
   Other labs: PT / PTT / INR:12.3/25.8/1.0, Amylase / Lipase:107/60,
   Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   The patinet is an 86 year old male with a history of CAD, CAF (not on
   coumadin secondary to GI bleed,) dementia, bipolar disorder, and COPD
   who presented with profound anemia, found to have a large duodenal
   ulcer, and continued hematocrit drop despite epinephrine injections,
   now transfered for potential GDA embolization.
   .
   # GIB:  Patient has continued to demonstrate a unstable hematocrit
   despite EGD injections of a large duodenal ulcer.  Abdominal exam shows
   no evidence of peritonitis, and no evidence of free air under the
   diagphram on CXR.  Given the size of the duodenal ulcer with ongoing
   bleeding, treatment plans could include a GDA embolization, repeat EGD,
   or surgical intervention.  See little value in repeat EGD given the
   size of the ulcer that did not responed to epinepherin injections.
   Given patients multiple comorbidities, the risk of surgery clearly
   present, and agree that GDA embolization may be better intial
   approach.  Report for [**Hospital1 632**] described posterior perforation, which may
   explain leukocytosis, but no evidence of this in transfer records.
   - IV PPI ggt for now, will convert to PPI [**Hospital1 **] IV
   - trend hct q4hr, T+C 4 units
   - has a large bore IV and CVL, which will need to be replaced in 24hrs
   - f/u osh h.pylori and bx
   - consult GI, IR, and gen surgery
 IR embo in the event that surgery
   defers management
   - likely will get abd CT
   .
   # Chronic AF: Currently well rate controlled.
   - cont lopressor at 50mg TID
   - cont to hold digoxin
   - hold anticoagulation.
   .
   # Hypertension:  Not currently hypertensive.  Holding amlodipine in the
   setting of GI bleed.
   - continue to hold
   .
   # CAD:  Not currently complaining of chest pain and no evidence of
   ACS.
   - hold ASA and plavix
   - cont BB
   - cont statin
   .
   #CKI:  Currently at baseline, renally dose medications and avoid
   nephrotoxins. If get CT w/ contrast, will give mucomyst/NaHCO3.
   .
   # Leukocytosis:  Unclear source, now improving.  As had c.diff negative
   x 2 will hold further vancomycin.  Concern for posterior performation
   in the setting of duodenal ulcer.
   - check UA and UCx
   - check BCx
   - hold further antibiotics
   .
   # COPD: cont home nebs.
   .
   # Bipolar d/o: will check depakote levels and cont current dose.
   .
   FEN: IVF, replete electrolytes, NPO
   .
   Prophylaxis: SCDs
   .
   Access: Left subclavian CVL will need to be resited and PIV
 dc cvl
   .
   Code:  DNR/DNI
   .
   Communication: Patient with [**First Name8 (NamePattern2) 7312**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11925**]
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-3-26**] 04:57 PM
   Multi Lumen - [**2160-3-26**] 04:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2160-03-27 09:26:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Admits to some epigastric discomfort.
   No further PRBC transfusions required since transfer to [**Hospital1 1**].
   Evaluated by GI consult -- hesitant to repeat EGD.
   Evaluated by General Surgery -- poor surgical candidate
   Evaluated by IR -- arteriography, possible GDA embolization
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy, Dementia
   Allergies:
   Acetylcysteine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-3-26**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Sputum
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-3-27**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 88 (65 - 92) bpm
   BP: 180/81(103) {141/52(80) - 180/90(103)} mmHg
   RR: 18 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                     48 mL
                                                                    178 mL
   PO:
             TF:
   IVF:
                                                                     48 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    385 mL
                                                                    500 mL
   Urine:
                                                                    385 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -337 mL
                                                                   -322 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place ([**Hospital 11931**] hospital'), Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   198 K/uL
   70 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.3 mEq/L
   28 mg/dL
   113 mEq/L
   142 mEq/L
   32.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2160-3-26**]  06:19 PM
                             [**2160-3-27**]  01:46 AM
                             [**2160-3-27**]  06:33 AM
   WBC
   13.8
   12.7
   Hct
   33.2
   36.8
   32.8
   Plt
   197
   198
   Cr
   1.2
   1.2
   Glucose
   84
   70
   Other labs: PT / PTT / INR:12.3/25.8/1.0, Amylase / Lipase:107/60,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   GI BLEED
 attributed to [**Year (4 digits) **] (duodenal ulcer).  Total transfusion
   requirement 9 units PRBC, slow.  Continue monitor exam, serial Hct.  GI
   consult and General Surgery Consult currently following.   Continue
   PPI, consider empirical anti-H.Pylori Rx.  Continue discussion with IR
   service regarding best course of therapy.  Contact patient's PcP.
   [**Name10 (NameIs) **] [**Name11 (NameIs) **] large DU described, deep, perhaps to level of pancreatic
   capsule.  No clinical evidence for perforation.  Await biopsy results.
   Deep ulcer appearance, at risk for performation.  Check LFTs, amylase,
   lipase.  Abd CT scan.   If continues to bleed, consider medical
   management vs. IR-directed embolization.
   COPD
 underlying condition, with productive cough, unclear if
   worsening.  Monitor symptoms.
   LEUKOCYTOSIS
 Unclear etiology.  Possible stress, but need to consider
   early infection.  Check cultures (blood, urine, sputum).  Low threshold
   for empirical antimicrobials.
   A-FIB
 Rate controlled.  Monitor HR.
   HTN
 Elevated currently, likely due to NPO of usual anti-HTN meds.
   FLUIDS
 replete. Monitor I/O, uo, BUN, creat.
   CHF
 No active disease.  Monitor exam.
   NUTRITIONAL SUPPORT
 NPO pending evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-3-26**] 04:57 PM
   Multi Lumen - [**2160-3-26**] 04:58 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2160-03-28 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2160-3-27**] 10:25 PM
   - SURGERY: scope before [**Doctor First Name **] (now that we know he's not demented)
   - GI: 2 attendings weighed in --> No Scope
   - Checking HPylori
   Allergies:
   Acetylcysteine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-28**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 65 (63 - 92) bpm
   BP: 142/63(84) {140/51(77) - 187/90(110)} mmHg
   RR: 18 (18 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,706 mL
                                                                    619 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,586 mL
                                                                    619 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    420 mL
   Urine:
                                                                  1,235 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    471 mL
                                                                    199 mL
   Respiratory support
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   241 K/uL
   11.4 g/dL
   94 mg/dL
   1.3 mg/dL
   18 mEq/L
   3.8 mEq/L
   22 mg/dL
   110 mEq/L
   139 mEq/L
   33.0 %
   12.5 K/uL
        [image002.jpg]
                             [**2160-3-26**]  06:19 PM
                             [**2160-3-27**]  01:46 AM
                             [**2160-3-27**]  06:33 AM
                             [**2160-3-27**]  09:32 AM
                             [**2160-3-27**]  01:38 PM
                             [**2160-3-27**]  06:27 PM
                             [**2160-3-28**]  03:01 AM
                             [**2160-3-28**]  05:56 AM
   WBC
   13.8
   12.7
   12.5
   Hct
   33.2
   36.8
   32.8
   31.8
   33.5
   33.1
   30.3
   33.0
   Plt
   197
   198
   241
   Cr
   1.2
   1.2
   1.3
   Glucose
   84
   70
   94
   Other labs: PT / PTT / INR:12.3/25.8/1.0, Amylase / Lipase:107/60,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   86 yo M with a history of CAD, CAF (not on warfarin secondary to GI
   bleed), dementia, bipolar disorder, and COPD who presented with
   profound anemia, found to have a large duodenal ulcer, and continued
   hematocrit drop despite epinephrine injections, now transferred for
   potential GDA embolization.
   .
   # GIB:  Patient has continued to demonstrate a unstable hematocrit
   despite EGD injections of a large duodenal ulcer.  Abdominal exam shows
   no evidence of peritonitis, and no evidence of free air under the
   diaphragm on CXR.  Given the reputed size of the duodenal ulcer with
   ongoing bleeding, treatment plans could include a GDA embolization,
   repeat EGD, or surgical intervention.  See little value in repeat EGD
   given the size of the ulcer that did not responed to epinephrine
   injections.  Given patients multiple comorbidities, the risk of surgery
   clearly present, and agree that GDA embolization may be better initial
   approach.  Report for [**Hospital1 632**] described posterior perforation, which may
   explain leukocytosis, but no evidence of this in transfer records.
   - surgery defers management to IR in the event of acute bleed and,
   before that, medical management.
   - IV PPI gtt for now, will convert to PPI [**Hospital1 **] IV
   - trend hct [**Hospital1 **], increasing frequency if bloody stool or increased
   stool frequency
   - has a large bore IV
   - f/u H. pylori serologies in-house (OSH labs had no H. pylori tests
   when Path & Chem labs were called)
   - consult GI, IR, and gen surgery
 IR embo in the event that surgery
   defers management. The outcomes are likely the same.
   - likely will get abd CT
   .
   # Chronic AF: Currently well rate controlled.
   - cont lopressor at 50mg TID
   - cont to hold digoxin
   - hold anticoagulation.
   .
   # Hypertension: Hypertensive this AM.
   - restart amlodipine
   .
   # LUE edema
 New this AM.  Patient does have a history of L-sided IV.
   Appears to be infiltrated without evidence of edema across all
   compartments.
   - no U/S at this time; would avoid anticoagulation even if there was
   evidence of clot
   .
   # CAD:  Not currently complaining of chest pain and no evidence of
   ACS.
   - hold ASA and plavix
   - cont BB
   - cont statin
   .
   #CKI:  Currently at baseline, renally dose medications and avoid
   nephrotoxins. If get CT w/ contrast, will give mucomyst/NaHCO3.
   .
   # Leukocytosis:  Unclear source, now improving.  As had c.diff negative
   x 2 will hold further vancomycin.  Concern for posterior performation
   in the setting of duodenal ulcer.
   - check UA and UCx
   - check BCx
   - hold further antibiotics
   .
   # COPD: cont home nebs.
   .
   # Bipolar d/o: will check depakote levels and cont current dose.
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: SCDs
   Access: Left subclavian CVL will need to be resited and PIV
 dc cvl
   Code:  DNR/DNI
   Communication: Patient with [**First Name8 (NamePattern2) 7312**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11925**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-3-26**] 04:57 PM
   18 Gauge - [**2160-3-27**] 04:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2160-03-28 10:00:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced "sundowning."
   No requirement for PRBC transfusion.
   Offers no complaints.
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Acetylcysteine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Nutritional Support: NPO
   Respiratory: Cough
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2160-3-28**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 81 (63 - 92) bpm
   BP: 165/60(82) {138/50(68) - 187/90(110)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,706 mL
                                                                    943 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,586 mL
                                                                    823 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    545 mL
   Urine:
                                                                  1,235 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    471 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand, Focal swelling
   left elbow
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): year, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   241 K/uL
   94 mg/dL
   1.3 mg/dL
   18 mEq/L
   3.8 mEq/L
   22 mg/dL
   110 mEq/L
   139 mEq/L
   33.0 %
   12.5 K/uL
        [image002.jpg]
                             [**2160-3-26**]  06:19 PM
                             [**2160-3-27**]  01:46 AM
                             [**2160-3-27**]  06:33 AM
                             [**2160-3-27**]  09:32 AM
                             [**2160-3-27**]  01:38 PM
                             [**2160-3-27**]  06:27 PM
                             [**2160-3-28**]  03:01 AM
                             [**2160-3-28**]  05:56 AM
   WBC
   13.8
   12.7
   12.5
   Hct
   33.2
   36.8
   32.8
   31.8
   33.5
   33.1
   30.3
   33.0
   Plt
   197
   198
   241
   Cr
   1.2
   1.2
   1.3
   Glucose
   84
   70
   94
   Other labs: PT / PTT / INR:12.8/25.6/1.1, Amylase / Lipase:107/60,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   GI BLEED
 attributed to [**Year (4 digits) **] (duodenal ulcer).  Total transfusion
   requirement 9 units PRBC, slow.  No further transfusion requirement
   since transfer to [**Hospital1 1**].  Continue monitor exam, serial Hct.  Need to
   discuss with GI and General Surgery Consultants.   Continue PPI,
   consider empirical anti-H.Pylori Rx.  Continue discussion with IR
   service regarding best course of therapy.  Contact patient's PcP.
   [**Name10 (NameIs) **] [**Name11 (NameIs) **] large DU described, deep, perhaps to level of pancreatic
   capsule.  No clinical evidence for perforation.  Await biopsy results.
   Deep ulcer appearance, at risk for performation.  Check LFTs, amylase,
   lipase.  Abd CT scan.   If continues to bleed, consider medical
   management vs. IR-directed embolization.  Need to define prognosis.
   COPD
 underlying condition, with productive cough, unclear if
   worsening.  Monitor symptoms.
   LEUKOCYTOSIS
 Unclear etiology.  Possible stress, but need to consider
   early infection.  Check cultures (blood, urine, sputum).  Low threshold
   for empirical antimicrobials.
   A-FIB
 Rate controlled.  Monitor HR.
   HTN
 Elevated currently, likely due to NPO of usual anti-HTN meds.
   FLUIDS
 replete. Monitor I/O, uo, BUN, creat.
   CHF
 No active disease.  Monitor exam.
   NUTRITIONAL SUPPORT
 NPO pending evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-3-27**] 04:47 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:  Discussion with sister [**Name (NI) 117**].  Updated
   medical condition and answered all questions.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2160-03-29 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2160-3-28**] 09:19 AM
   - SW consult to help find nursing home resources for family
   - GI, [**Doctor First Name 3**] recs: watch and wait.  If he decompensates, contact Surgery
   and IR; he would either go for Surgery or go for IR first to embolize
   and then go for Surgery.
   - switched PPI gtt --> PPI [**Hospital1 **]
   - H. pylori serology negative.
   - elevated left arm as it was a little edematous
   - pboots on
   - advanced diet
   - decreased metoprolol to 25 mg TID instead of 50 mg as patient
   bradycardic to low 40s in afternoon while sleeping
   Allergies:
   Acetylcysteine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-3-28**] 11:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-29**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 72 (53 - 93) bpm
   BP: 184/70(95) {129/49(68) - 184/74(99)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,515 mL
                                                                     66 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,915 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    185 mL
   Urine:
                                                                    980 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,535 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   9.8 g/dL
   111 mg/dL
   1.2 mg/dL
   17 mEq/L
   3.4 mEq/L
   19 mg/dL
   112 mEq/L
   137 mEq/L
   29.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2160-3-26**]  06:19 PM
                             [**2160-3-27**]  01:46 AM
                             [**2160-3-27**]  06:33 AM
                             [**2160-3-27**]  09:32 AM
                             [**2160-3-27**]  01:38 PM
                             [**2160-3-27**]  06:27 PM
                             [**2160-3-28**]  03:01 AM
                             [**2160-3-28**]  05:56 AM
                             [**2160-3-28**]  04:19 PM
                             [**2160-3-29**]  03:35 AM
   WBC
   13.8
   12.7
   12.5
   9.4
   Hct
   33.2
   36.8
   32.8
   31.8
   33.5
   33.1
   30.3
   33.0
   32.0
   29.1
   Plt
   197
   198
   241
   200
   Cr
   1.2
   1.2
   1.3
   1.2
   Glucose
   84
   70
   94
   111
   Other labs: PT / PTT / INR:13.0/27.9/1.1, ALT / AST:[**10-30**], Alk Phos / T
   Bili:74/0.3, Amylase / Lipase:107/60, LDH:229 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   86 yo M with a history of CAD, CAF (not on warfarin secondary to GI
   bleed), dementia, bipolar disorder, and COPD who presented with
   profound anemia, found to have a large duodenal ulcer, and continued
   hematocrit drop despite epinephrine injections, now transferred for
   potential GDA embolization.
   .
   # GIB:  Patient has continued to demonstrate a unstable hematocrit
   despite EGD injections of a large duodenal ulcer.  Abdominal exam shows
   no evidence of peritonitis, and no evidence of free air under the
   diaphragm on CXR.  Given the reputed size of the duodenal ulcer with
   ongoing bleeding, treatment plans could include a GDA embolization,
   repeat EGD, or surgical intervention.  See little value in repeat EGD
   given the size of the ulcer that did not responed to epinephrine
   injections.  Given patients multiple comorbidities, the risk of surgery
   clearly present, and agree that GDA embolization may be better initial
   approach.  Report for [**Hospital1 632**] described posterior perforation, which may
   explain leukocytosis, but no evidence of this in transfer records.
   - surgery defers management to IR in the event of acute bleed and,
   before that, medical management.
   - converted to PPI [**Hospital1 **] IV
   - trend hct [**Hospital1 **], increasing frequency if bloody stool or increased
   stool frequency
   - has a large bore IV
   - f/u H. pylori serologies in-house (OSH labs had no H. pylori tests
   when Path & Chem labs were called)
   - consult GI, IR, and gen surgery
 IR embo in the event that surgery
   defers management. The outcomes are likely the same.
   - continue trend hct, if not improve, will likely get abd CT for
   reeval.
   - going to be called out today
   .
   # Chronic AF: Currently well rate controlled, with bradycardic episodes
   to the low 40
   - decrease metoprolol to 12.5 TID
   - cont to hold digoxin
   - hold anticoagulation.
   .
   # Hypertension: on amlodipine, trend
   .
   # LUE edema
 New this AM.  Patient does have a history of L-sided IV.
   Appears to be infiltrated without evidence of edema across all
   compartments.
   - no U/S at this time; would avoid anticoagulation even if there was
   evidence of clot
   .
   # CAD:  Not currently complaining of chest pain and no evidence of
   ACS.
   - hold ASA and plavix
   - cont BB
   - cont statin
   .
   #CKI:  Currently at baseline, renally dose medications and avoid
   nephrotoxins. If get CT w/ contrast, will give mucomyst/NaHCO3.
   .
   # Leukocytosis:  Unclear source, now improving.  As had c.diff negative
   x 2 will hold further vancomycin.  Concern for posterior performation
   in the setting of duodenal ulcer.
   - check UA and UCx
   - check BCx
   - hold further antibiotics
   .
   # COPD: cont home nebs, with albuteral inhalers
   .
   # Bipolar d/o: low depakote levels and will touhc base with pharmacy
   regarding current dose.
   .
   FEN: IVF, replete electrolytes, advance diet as tolerated
   Prophylaxis: SCDs
   Access: Left subclavian CVL will need to be resited and PIV
 dc cvl
   Code:  DNR/DNI
   Communication: Patient with [**First Name8 (NamePattern2) 7312**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11925**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-3-27**] 04:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**First Name (STitle) 7709**]
s note above and
   agree with his findings and plan of care.  Mr [**Known lastname **] is a delightful
   86 yo man with a large DU that
s bled significantly. Though initially
   transferred to [**Hospital1 1**] for possibly surgery or other IR intervention, so
   far he
s done well with just high dose PPI.  Today he
s comfortable and
   hemodynamically stable, if a bit bradycardic on his current dose of
   metoprolol for Afib rate control. His Hct is generally stable at 30.
   If Hct stays stable he can go to floor on a lower dose of Metoprolol.
   If there is evidence of rebleed, then IR will be re-consulted for
   embolization.  35 min spent in the care of this patient.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2160-3-29**] 03:39 PM ------